US08426447B2
A microwave vial was charged with (racemic)-2′-Chloro-7′-(5-pyrimidinyl)spiro[1,3-oxazole-4,9′-xanthen]-2-amine (prepared in a manner similar to Example 39; 100 mg, 274 μmol), cesium carbonate (134 mg, 411 μmol), bis(triphenylphosphine)palladium(II) chloride (19 mg, 27 μmol) and tri-tert-butylphosphonium tetrafluoroborate (16 mg, 55 μmol). DMF (1 ml), DBU (21 μl, 137 μmol) and 3,3-dimethylbut-1-yne (167 μl, 1371 μmol) were added. The vial was sealed and heated at 150° C. in Biotage microwave oven for 60 min. The mixture was diluted with 5 ml of EtOAc, filtered through Celite and concentrated in vacuo to give brown oil, which was re-dissolved in 7 ml of EtOAc and shaken with 10 ml of 2N HCl. Acidic aqueous layer was basified with 30% ammonium hydroxide and precipitated brown oil was extracted twice with EtOAc. The organic layers were washed with brine, concentrated, dissolved in 1.5 ml of DMF, filtered through Nalgene PTFE 0.2 mkm filter and subjected to preparative reverse phase HPLC (15-90% ACN in 0.1% aq TFA). The fractions containing product were concentrated in vacuo in order to remove ACN, saturated NaHCO3 was added and the mixture was extracted with EtOAc (15 ml). The organic layer was washed with brine, dried over MgSO4 and concentrated to give (rac)-2′-(3,3-dimethylbut-1-ynyl)-7′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine (49% yield).

reactant | (racemic)-2′-Chloro-7′-(5-pyrimidinyl)spiro[1,3-oxazole-4,9′-xanthen]-2-amine | ClC1=CC=2C3(C4=CC(=CC=C4OC2C=C1)C=1C=NC=NC1)N=C(OC3)N | C19H13ClN4O2
reactant | cesium carbonate | 411 μmol, 134 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tri-tert-butylphosphonium tetrafluoroborate | 55 μmol, 16 mg | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
reactant | DBU | 137 μmol, 21 μl | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 3,3-dimethylbut-1-yne | 1371 μmol, 167 μl | CC(C#C)(C)C | C6H10
reactant | HCl | 2N, 10 ml | Cl | ClH
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | EtOAc | 5 ml | CCOC(=O)C | C4H8O2
solvent | EtOAc | 7 ml | CCOC(=O)C | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) chloride | 27 μmol, 19 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | (rac)-2′-(3,3-dimethylbut-1-ynyl)-7′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine | 49% yield | CC(C#CC1=CC=2C3(C4=CC(=CC=C4OC2C=C1)C=1C=NC=NC1)N=C(OC3)N)(C)C | C25H22N4O2
